US06559168B2
trans-(−)-1-(4-Aminomethyl-cyclohexyl)-ethanol of Formula (9.0.12)
A 500 mL Parr bottle was charged with 400 mg Pd(OH)2, 7.0 g (24.1 mmol) trans-(−)-[4-(1-hydroxy-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester, 125 mL ethyl acetate and 125 ml MeOH. The bottle was placed under 50 psi H2 and shaken for 2 hours. The suspension was then filtered through Celite and concentrated to give 3.6 g of a white solid.

reactant | trans-(−)-[4-(1-hydroxy-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester | 24.1 mmol, 7.0 g | C(C1=CC=CC=C1)OC(NC[C@@H]1CC[C@H](CC1)C(C)O)=O | C17H25NO3
reactant | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 400 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | 125 ml | CO | CH4O
product | trans-(−)-1-(4-Aminomethyl-cyclohexyl)-ethanol | 3.6 g | NC[C@@H]1CC[C@H](CC1)C(C)O | C9H19NO
